US08217028B2
To a solution of ethyl 4-[7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indol-3-yl]butanoate (D53) (40 mg) in THF (5 mL) was added aqueous NaOH (2 M, 2 mL). The reaction mixture was stirred at 60° C. overnight. The mixture was acidified with HCl (2 M) to pH 4-5, and then partitioned between ethyl acetate (25 mL) and water (25 mL). The organic phase was washed with water (25 mL) and brine (25 mL), dried over anhydrous sodium sulphate and evaporated to give the crude product, which was purified by Mass Directed Auto Prep to afford 4-[7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indol-3-yl]butanoic acid (E32) (22 mg). δH (DMSO-d6, 400 MHz): 1.36 (6H, d), 1.90 (2H, m), 2.28 (2H, t), 2.77 (2H, t), 4.89 (1H, m), 7.20 (1H, t), 7.26 (1H, d), 7.44 (1H, d), 7.80 (1H, d), 7.93 (1H, d), 8.20 (1H, dd), 8.37 (1H, d), 10.83 (1H, s), 12.05 (1H, br s). MS (ES): C23H22ClN3O4 requires 439; found 440.2 (M+H+).

reactant | ethyl 4-[7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indol-3-yl]butanoate | 40 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC=C2C(=CNC12)CCCC(=O)OCC | C25H26ClN3O4
reactant | NaOH | 2 M, 2 mL | [OH-].[Na+]
reactant | HCl | 2 M | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-[7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indol-3-yl]butanoic acid | 22 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC=C2C(=CNC12)CCCC(=O)O | C23H22ClN3O4
